US08222248B2
A mixture of methyl 4-(2,6-dimethylphenylethynyl)-3-(2,2,2-trifluoroacetylamino)-benzoate (103 mg, 270 μmol), copper (I) iodide (2 mg, 10 μmol), triphenylphosphine (6 mg, 23 μmol), and K3PO4 (117 mg, 550 μmol) in dioxane (2 mL) was heated at 115° C. in a microwave apparatus for 15 min. The solution was concentrated, then chromatographed using a gradient of 0-40% heptane/ethyl acetate to afford methyl 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylate.

reactant | methyl 4-(2,6-dimethylphenylethynyl)-3-(2,2,2-trifluoroacetylamino)-benzoate | 270 μmol, 103 mg | CC1=C(C(=CC=C1)C)C#CC1=C(C=C(C(=O)OC)C=C1)NC(C(F)(F)F)=O | C20H16F3NO3
reactant | triphenylphosphine | 23 μmol, 6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K3PO4 | 550 μmol, 117 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 10 μmol, 2 mg | [Cu]I
product | methyl 2-(2,6-dimethylphenyl)-1H-indole-6-carboxylate | CC1=C(C(=CC=C1)C)C=1NC2=CC(=CC=C2C1)C(=O)OC | C18H17NO2
